US07893099B2
Step 2: (1R,2R,4R) and (1S,2S,4S)-2-Methoxy-4-[4-(4-methoxymethyl-[1,2,3]triazol-1-yl)-2-trifluoromethyl-benzenesulfonyl]-cyclopentanecarboxylic acid methyl ester
To a solution of (1R,2R,4R) and (1S,2S,4S)-4-(4-azido-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester (100 mg, 0.245 mmol) in DCM (5 ml) was added methyl propargyl ether (26 mg, 0.371 mmol) and CuI (20 mg, immobilized on Amberlyst A-21, loading 1.2 mmol CuI/g, prepared according to Org. Letters 2006, 8, 1689) and the mixture was placed on a shaker over night. The mixture was then filtered and concentrated and the remaining oil was purified by silica gel chromatography (DCM/MeOH 98:2) to obtain the title compound (62 mg, 53%) as colorless oil. MS (EI): 478.1 (M+H)+.

reactant | (1S,2S,4S)-4-(4-azido-2-trifluoromethyl-benzenesulfonyl)-2-methoxy-cyclopentanecarboxylic acid methyl ester | 0.245 mmol, 100 mg | COC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)N=[N+]=[N-])C(F)(F)F)OC | C15H16F3N3O5S
reactant | methyl propargyl ether | 0.371 mmol, 26 mg | C(C#C)OC | C4H6O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | CuI | 1.2 mmol, 20 mg | [Cu]I
product | (1S,2S,4S)-2-Methoxy-4-[4-(4-methoxymethyl-[1,2,3]triazol-1-yl)-2-trifluoromethyl-benzenesulfonyl]-cyclopentanecarboxylic acid methyl ester | 62 mg, 53% | COC(=O)[C@@H]1[C@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)N1N=NC(=C1)COC)C(F)(F)F)OC | C19H22F3N3O6S
